US04387238
Following the procedure of Example 34, mono-n-butyl potassium epoxysuccinate (1.06 g) was successively treated with oxalyl chloride (0.63 g) and aniline (1.03 g) to give 0.61 g of butyl N-phenyl-2,3-epoxysuccinamate (Compound No. 52) as colorless oil.

reactant | mono-n-butyl potassium epoxysuccinate | 1.06 g | O1C(C(=O)O)C1C(=O)O.C(CCC)[K]
reactant | oxalyl chloride | 0.63 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 1.03 g | NC1=CC=CC=C1 | C6H7N
product | butyl N-phenyl-2,3-epoxysuccinamate | 0.61 g | C1(=CC=CC=C1)NC(C1C(C(=O)OCCCC)O1)=O | C14H17NO4
